US08008481B2
1-Iodo-pyrrolidine-2,5-dione (10.35 g, 46.0 mmol) was added in one portion to a solution of methyl 2-amino-5-bromo-benzoate (10.35 g, 45.0 mmol) in trifluoroacetic acid (90 mL) at ambient temperature. The reaction was stirred for about 1 hour at ambient temperature then concentrated under reduced pressure. The residue was dissolved in CH2Cl2 (150 mL), washed with saturated Na2CO3 solution (2×150 mL) and a 10% aqueous solution of Na2S2O4 (2×100 mL), dried over anhydrous MgSO4, filtered and concentrated to yield methyl 2-amino-5-bromo-3-iodo-benzoate (15.5 g, 97%) as a yellow solid; RP HPLC (Table 1, Method e) Rt=2.45, 1H NMR (DMSO-d6, 400 MHz) δ 3.83 (s, 3H), 7.74 (broad s), 2H), 7.86-7.88 (d, 2H), 8.00-8.02 (d, 1H).

reactant | 1-Iodo-pyrrolidine-2,5-dione | 46.0 mmol, 10.35 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | methyl 2-amino-5-bromo-benzoate | 45.0 mmol, 10.35 g | NC1=C(C(=O)OC)C=C(C=C1)Br | C8H8BrNO2
solvent | trifluoroacetic acid | 90 mL | FC(C(=O)O)(F)F | C2HF3O2
product | methyl 2-amino-5-bromo-3-iodo-benzoate | 15.5 g, 97% | NC1=C(C(=O)OC)C=C(C=C1I)Br | C8H7BrINO2
